US07932279B2
2,4-Bis-benzyloxy-5-bromobenzoic acid (13.5 g, 33 mmol) was dissolved in DMF (anhydrous, 100 ml), and carbonyldiimidazole (CDI) (6.1 g, 37 mmol) was added and the resulting solution was stirred at r.t for 2 h. 3-Methoxypropylamine (3.6 g, 40 mmol) solution in DMF (25 ml) was added and the resulting solution was stirred at r.t. until the reaction was complete. The reaction was diluted with water (250 ml), extracted with ethyl acetate (250 ml×3), and the combined organics were washed thoroughly with water to remove DMF and dried over sodium sulfate. After filtration and concentration, the residue was purified by flash chromatography on silica gel to give 2,4-bis-benzyloxy-5-bromo-N-(3-methoxy-propyl)-benzamide (15.8 g, 99%). M.p.: 104-106° C.; 400 MHz 1H NMR (CDCl3) δ: 8.41 (s, 1H), 7.85 (t, J=5.2 Hz, 1H), 7.45-7.32 (m, 10H), 6.53 (s, 1H), 5.14 (s, 2H), 5.09 (s, 2H), 3.47-3.41 (q, J=5.2 Hz, 2H), 3.30 (t, J=6.4 Hz, 2H), 3.22 (s, 3H), 1.72-1.65 (pent, J=6.4 Hz, 2H); LCMS: 484, 486 [M+H].

reactant | 2,4-Bis-benzyloxy-5-bromobenzoic acid | 33 mmol, 13.5 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C(=C1)OCC1=CC=CC=C1)Br | C21H17BrO4
reactant | carbonyldiimidazole | 37 mmol, 6.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-Methoxypropylamine | 40 mmol, 3.6 g | COCCCN | C4H11NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 250 ml | O | H2O
product | 2,4-bis-benzyloxy-5-bromo-N-(3-methoxy-propyl)-benzamide | 15.8 g, 99% | C(C1=CC=CC=C1)OC1=C(C(=O)NCCCOC)C=C(C(=C1)OCC1=CC=CC=C1)Br | C25H26BrNO4
